US04879407
in a first stage, trifluoroacetic acid is brought into contact with a slight excess of ethanol in the presence of concentrated sulfuric acid and a solvent, the solvent having a boiling point higher than that of trifluoroacetic acid and specific gravity relative to water less than 1 and which solvent does not form an azeotrope with ethyl trifluoroacetate, and then carrying out a phase separation and removing the sulfuric layer, followed, if required, by an additional stage in which concentrated sulfuric acid is added to complete the esterification;

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
